US09056874B2
a) (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile (187 mg, 0.310 mmol) in EtOH (3103 μL) was added sodium ethoxide (21% in EtOH, 2.3 mL, 6.21 mmol) and the mixture was stirred at 60° C. After 2 hours the reaction was cooled to room temperature and stirred overnight. The mixture was concentrated and then purified directly by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.64-12.79 (m, 1H) 11.60 (br. s., 1H) 8.38-8.49 (m) 8.05 (s, 1H) 7.97-8.03 (m) 7.89 (m) 7.58-7.66 (m, 1H) 7.48-7.55 (m) 7.18-7.32 (m, 1H) 5.61 (br. s., 1H) 3.52 (s, 3H) 2.57 (s, 3H). HRMS calcd. for C20H16F3N4O3S (M+H)+ 449.0895. found 449.0889.

reactant | 2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.310 mmol, 187 mg | FC(C(C1=C2C=CN(C2=C(C=C1S(=O)(=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1)(O)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C27H21F3N4O5S2
reactant | sodium ethoxide | 6.21 mmol, 2.3 mL | [O-]CC.[Na+]
solvent | EtOH | 3103 μL | CCO | C2H6O
product | (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(7-methyl-5-(methylsulfonyl)-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1S(=O)(=O)C)C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C20H15F3N4O3S
